US09359359B2
Step 2 7-Benzyl-1-(3-((tert-butyldimethylsilyl)oxy)propyl)-8-(3,4-dichlorophenyl)-3-methyl-1H-purine-2,6(3H,7H)-dione (0.49 g, 0.854 mmol) was dissolved in ethanol (15 mL) and 6 N HCl (2.0 mL) was added. The clear solution was stirred at room temperature for 1 h. The reaction was diluted with water (100 mL) and extracted with DCM (3×75 ml). The combined extracts were dried with magnesium sulfate, filtered and the solvent was removed under reduced pressure to give a white solid. The solid was slurried in diethyl ether (5 mL) and filtered to give 7-benzyl-8-(3,4-dichlorophenyl)-1-(3-hydroxypropyl)-3-methyl-1H-purine-2,6(3H,7H)-dione (0.28 g, 71% yield) as a white solid. LCMS retention time=3.567 min and 96% purity, LCMS MH+=459. 1H NMR (CDCl3) δ 7.71 (s, 1H), 7.53 (d, 1H, J=8 Hz), 7.38-7.41 (d, 1H, J=4 Hz), 7.26-7.29 (m, 3H), 7.04 (d, 2H), 5.64 (s, 2H), 4.20 (t, 2H, J=8 Hz), 3.65 (s, 3H), 3.47-3.54 (m, 2H), 3.30 (t, 2H, J=8 Hz).

reactant | 7-Benzyl-1-(3-((tert-butyldimethylsilyl)oxy)propyl)-8-(3,4-dichlorophenyl)-3-methyl-1H-purine-2,6(3H,7H)-dione | 0.854 mmol, 0.49 g | C(C1=CC=CC=C1)N1C(=NC=2N(C(N(C(C12)=O)CCCO[Si](C)(C)C(C)(C)C)=O)C)C1=CC(=C(C=C1)Cl)Cl | C28H34Cl2N4O3Si
reactant | HCl | 6 N, 2.0 mL | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | 7-benzyl-8-(3,4-dichlorophenyl)-1-(3-hydroxypropyl)-3-methyl-1H-purine-2,6(3H,7H)-dione | 0.28 g, 71% yield | C(C1=CC=CC=C1)N1C(=NC=2N(C(N(C(C12)=O)CCCO)=O)C)C1=CC(=C(C=C1)Cl)Cl | C22H20Cl2N4O3
